datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[N+](C)(C)Cc1ccc([O-:10])cc1.O=C(O)c1c[n+:21]([H:20])ccn1>>C[N+](C)(C)Cc1ccc([O:10][H:20])cc1.O=C(O)c1c[n:21]ccn1 10=20;20,21=21",
"CCCCCCCC[N+:21](CC(C)O)(CC(C)O)[H:20].c1cnc2c(c1)ccc1c3c(c[n:10]c12)CCCC3>>CCCCCCCC[N:21](CC(C)O)CC(C)O.c1cnc2c(c1)ccc1c3c(c[n+:10]([H:20])c12)CCCC3 10=20;20,21=21",
"CCc1cc(C(C)C)ccc1[O-:10].O=C(Oc1ccc([N+](=O)[O-])cc1)[C@H]1CCCC[C@@H]1[NH2+:21][H:20]>>CCc1cc(C(C)C)ccc1[O:10][H:20].O=C(Oc1ccc([N+](=O)[O-])cc1)[C@H]1CCCC[C@@H]1[NH2:21] 10=20;20,21=21",
"CC1CCCC(C)(C)[NH:10]1.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CC1CCCC(C)(C)[NH+:10]1[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CCC[NH2+]CC[NH:10]CCC.Nc1cc(N)c2ccc[n+:21]([H:20])c2c1O>>CCC[NH2+]CC[NH+:10](CCC)[H:20].Nc1cc(N)c2ccc[n:21]c2c1O 10=20;20,21=21",
"CC(=O)N1CC[N:10](C)CC1.Cc1cc(C)[n+:21]([H:20])c2c(C)cccc12>>CC(=O)N1CC[N+:10](C)([H:20])CC1.Cc1cc(C)[n:21]c2c(C)cccc12 10=20;20,21=21",
"C[NH+](C)CCC/[N:10]=C(/c1ccccc1)c1ccccc1Cl.Cc1nnc(C)n1[O:21][H:20]>>C[NH+](C)CCC/[N+:10](=C(/c1ccccc1)c1ccccc1Cl)[H:20].Cc1nnc(C)n1[O-:21] 10=20;20,21=21",
"CCCc1cc(Cl)cc(Cl)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCc1cc(Cl)cc(Cl)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CNCC[NH:10]CCN.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CNCC[NH+:10](CCN)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(C)(C)c1cc([NH2:10])cc(C(C)(C)C)c1[N+](=O)[O-].Cc1ccc2c(c1)CC[NH+:21]2[H:20]>>CC(C)(C)c1cc([NH2+:10][H:20])cc(C(C)(C)C)c1[N+](=O)[O-].Cc1ccc2c(c1)CC[NH:21]2 10=20;20,21=21",
"CC(=O)Nc1nnc(S(=O)(=O)[NH-:10])s1.CC(C)(C(N)=O)S(=O)(=O)[N:21](C(N)=O)[H:20]>>CC(=O)Nc1nnc(S(=O)(=O)[NH:10][H:20])s1.CC(C)(C(N)=O)S(=O)(=O)[N-:21]C(N)=O 10=20;20,21=21",
"CCc1ccc(C(C)C)cc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCc1ccc(C(C)C)cc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)(C)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(Cl)C([N+](=O)[O-])=C2)[H:20])=C1>>CC(C)(C)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(Cl)C([N+](=O)[O-])=C2)=C1 10=20;20,21=21",
"C1CNCCNCC[NH:10]C1.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C1CNCCNCC[NH+:10]([H:20])C1.N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"C1CN(CC[N+:21]2([H:20])CCOCC2)CCO1.CC(=O)c1ccc([S-:10])cc1>>C1CN(CC[N:21]2CCOCC2)CCO1.CC(=O)c1ccc([S:10][H:20])cc1 10=20;20,21=21",
"Cc1ccc(C(=O)c2cc[n-:10]n2)cc1.Nc1nc[nH+]c([S:21][H:20])c1N>>Cc1ccc(C(=O)c2cc[n:10]([H:20])n2)cc1.Nc1nc[nH+]c([S-:21])c1N 10=20;20,21=21",
"C1CCC[NH:10]CCCCCCNCC1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>C1CCC[NH+:10]([H:20])CCCCCCNCC1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CC(C)[NH+](CCC(c1ccccc1)c1cccc[n+:21]1[H:20])C(C)C.C[N:10]1CCN(C(c2ccccc2)c2ccccc2)CC1>>CC(C)[NH+](CCC(c1ccccc1)c1cccc[n:21]1)C(C)C.C[N+:10]1([H:20])CCN(C(c2ccccc2)c2ccccc2)CC1 10=20;20,21=21",
"Cn1c(-c2ccccc2[O-])[n+:21]([H:20])c2ccccc21.OC[C@H]1CC[N:10]2CCC[C@@H]12>>Cn1c(-c2ccccc2[O-])[n:21]c2ccccc21.OC[C@H]1CC[N+:10]2([H:20])CCC[C@@H]12 10=20;20,21=21",
"O=C(c1c(O)cccc1[N+](=O)[O-])[O:21][H:20].c1ccc2c([O-:10])cncc2c1>>O=C(c1c(O)cccc1[N+](=O)[O-])[O-:21].c1ccc2c([O:10][H:20])cncc2c1 10=20;20,21=21",
"CSc1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CSc1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"N#Cc1ccc(O[C@H]2O[C@@H](C(=O)[O:21][H:20])[C@H](O)[C@@H](O)[C@@H]2O)cc1.O=[N+]([O-])c1cccc([O-:10])c1>>N#Cc1ccc(O[C@H]2O[C@@H](C(=O)[O-:21])[C@H](O)[C@@H](O)[C@@H]2O)cc1.O=[N+]([O-])c1cccc([O:10][H:20])c1 10=20;20,21=21",
"Nc1nc[nH+]c([S:21][H:20])c1N.c1ccc(CC(c2nnn[n-]2)[NH2:10])cc1>>Nc1nc[nH+]c([S-:21])c1N.c1ccc(CC(c2nnn[n-]2)[NH2+:10][H:20])cc1 10=20;20,21=21",
"CCCC[N+:21](CC1CO1)(CC1CO1)[H:20].[S-]c1c2[nH]cnc2nc[n:10]1>>CCCC[N:21](CC1CO1)CC1CO1.[S-]c1c2[nH]cnc2nc[n+:10]1[H:20] 10=20;20,21=21",
"CC(C)c1ccc[n:10]c1.CC[NH+]1CCCC1CNC(=O)c1c(OC)ccc(Cl)c1[O:21][H:20]>>CC(C)c1ccc[n+:10]([H:20])c1.CC[NH+]1CCCC1CNC(=O)c1c(OC)ccc(Cl)c1[O-:21] 10=20;20,21=21",
"COc1ccc2[nH]c3c(C)[n+:21]([H:20])ccc3c2c1.O=C(C[Se]c1ccccc1[N+](=O)[O-])[O-:10]>>COc1ccc2[nH]c3c(C)[n:21]ccc3c2c1.O=C(C[Se]c1ccccc1[N+](=O)[O-])[O:10][H:20] 10=20;20,21=21",
"C[N:10](C)c1ccc(C=O)cc1.Cn1ncc2c(N)nc(Cl)[n+:21]([H:20])c21>>C[N+:10](C)(c1ccc(C=O)cc1)[H:20].Cn1ncc2c(N)nc(Cl)[n:21]c21 10=20;20,21=21",
"COc1ncnc2nc[n:21]([H:20])c12.Cc1c[n:10]c(C)c(O)c1C=O>>COc1ncnc2nc[n-:21]c12.Cc1c[n+:10]([H:20])c(C)c(O)c1C=O 10=20;20,21=21",
"C1CCC2(CC1)N1CCC[N:10]12.COc1ccc([NH2+:21][H:20])cc1C[NH3+]>>C1CCC2(CC1)N1CCC[N+:10]12[H:20].COc1ccc([NH2:21])cc1C[NH3+] 10=20;20,21=21",
"COCC(=O)[N-:10]N.Cc1csc(C(=O)[O:21][H:20])c1>>COCC(=O)[N:10](N)[H:20].Cc1csc(C(=O)[O-:21])c1 10=20;20,21=21",
"C[NH:10]C(CO)CO.Oc1cccc([NH2+:21][H:20])c1>>C[NH+:10](C(CO)CO)[H:20].Oc1cccc([NH2:21])c1 10=20;20,21=21",
